US05859041
4-[5-(2-Methylthiopyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]piperidine-1-carboxylic acid benzyl ester
To a stirring solution of 4-[1-hydroxy-5-(2-methylthiopyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]piperidine-1-carboxylic acid benzyl ester (9.5 g. crude, 0.0146 mole) in methanol (130 mL) at 20° C. was added titanium (III) chloride (25 mL, 0.029 mole, 15% wt in 20-30% HCl) dropwise over 10 minutes. The reaction was allowed to stir for 3 hours then quenched by pouring slowly into a mixture of 10% aqueous sodium bicarbonate (1.5 L) and ethyl acetate (600 mL). After stirring for 30 minutes the organic layer was removed and aqueous extract washed with ethyl acetate (2×200 mL). The organic extracts were combined, dried over anhydrous sodium sulfate, and concentrated to an oil. The oil was chromatographed on silica using 60% ethyl acetate/hexane to give 6.35 g of a yellow foam upon concentration of product containing fractions.

reactant | 4-[1-hydroxy-5-(2-methylthiopyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]piperidine-1-carboxylic acid benzyl ester | 0.0146 mole, 9.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1N(C(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C1=NC(=NC=C1)SC)O | C28H26F3N5O3S
solvent | methanol | 130 mL | CO | CH4O
catalyst | titanium (III) chloride | 0.029 mole, 25 mL | [Cl-].[Ti+3].[Cl-].[Cl-]
product | 4-[5-(2-Methylthiopyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]piperidine-1-carboxylic acid benzyl ester | 6.35 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C1=NC(=NC=C1)SC | C28H26F3N5O2S
